* 1073 EQ circuit
* inspired by: https://www.soundskulptor.com/en/eq-s/4-7-eq573-ii-equaliser-for-the-series-500.html#/1-kit_or_asm-kit

* Shelf Filter
V1   vis    0 PULSE(-1 1 0 10m 10m 1u 20m)

* high shelf
R13  vis  v13 620
C25  v13  vch 10n IC=0 ; param:HighFreq range:33n:4.7n log
R1p  vch  vph 5k ; param:HighBoost range:10k:1
R1m  vph vcl2 5k ; param:HighBoost range:1:10k
C26 vcl2  v18 10n IC=0 ; param:HighFreq range:33n:4.7n log
R18  v18  vib 620
C46  vph  vab 15n IC=0
Rbias1 vph 0 100Meg

* low shelf
R14 vis v14 6.2k
R2p v14 vpl 5k ; param:LowBoost range:10k:1
R2m vpl v17 5k ; param:LowBoost range:1:10k
R17 v17 vib 6.2k
C35 v14 v45 100n IC=0 ; param:LowFreq range:330n:15n log
C36 v17 v45 100n IC=0 ; param:LowFreq range:330n:15n log
C45 vpl v45 10n IC=0
Rbias2 v45 0 100Meg
R19 vpl vab 12k

Es   vib  0   vab    0  1e6
C47  vab vib 470p IC=0
R20  vib   0 10k

* Bell filter
* V1  vib   0 PULSE(-1 1 0 20m 1u 1u 20m)
R21 vib v21 6.8k
R23 v21  va 8.2k
R25 v21  vb 6.8k
C60  vb  va 150p IC=0
R26  vb   0  10k
* Op-amp @TODO: replace with discrete amp?
* [out, 0, pos, neg, gain]
Eb  vb  0   va    0  1e6
R3p  vb vpt   5k ; param:MidBoost range:0:10k
R3m vpt vib   5k ; param:MidBoost range:10k:0
Cf  vpt  vc 220n IC=0 ; param:MidFreq range:220n:1n log
Lf   vc  vl    2 IC=0 ; param:MidFreq range:2:0.1 log
R24  vl  va 4.7k

* resonant highpass
R27   vb vihp 1.8k
C21 vihp  vl2 2.2u IC=0 ; param:HPF range:2.2u:100n
C22  vl2  voh 2.2u IC=0 ; param:HPF range:2.2u:100n
L1   vl2    0   10 IC=0 ; param:HPF range:10:1.3
R9   voh    0 5.1k

* output amp
R10 vnh  0 15k
Rll vnh vo 10k
Eout vo 0 voh vnh 1e6

* solved as 3 independent pieces for numerical stability
* sub-circuit: shelf vis vib
* sub-circuit: bell vib vb
* sub-circuit: hpf vb vo

Escaled vo_scaled 0 value = {V(vo)*0.5} ; netlist_skip

.tran 0 80m 0 20.0u uic
.wav "vin.wav" 32 96k V(vis)
.wav "vout.wav" 32 96k V(vo_scaled)
.options plotwinsize=0
.backanno
.end
